US07601856B2
Following the procedure of Example 1, 2,3-dihydro-1H-cyclopenta[b]benzofuran-7-ylamine (0.87 g, 5.0 mmol) and t-butylacetyl chloride (0.77 mL, 5.5 mmol) in pyridine (10 mL) provided N-(2,3-dihydro-1 H-cyclopenta[b]benzofuran-7-yl)-3,3-dimethyl-butyramide (0.82 g). Mp 195.5-197.0 ° c; MS (El) m/z 272 ([M+H]+); Anal. Calcd. for C17H21NO2: C, 75.25; H, 7.80; N, 5.16; Found: C, 75.34; H, 7.82; N, 5.14.

reactant | 2,3-dihydro-1H-cyclopenta[b]benzofuran-7-ylamine | 5.0 mmol, 0.87 g | C1CCC=2OC3=C(C21)C=C(C=C3)N | C11H11NO
reactant | t-butylacetyl chloride | 5.5 mmol, 0.77 mL | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | N-(2,3-dihydro-1 H-cyclopenta[b]benzofuran-7-yl)-3,3-dimethyl-butyramide | 0.82 g | C1CCC=2OC3=C(C21)C=C(C=C3)NC(CC(C)(C)C)=O | C17H21NO2
